US04882330
1-Phenoxy-4-[4-(4-aminophenyl)-1-piperazinyl]-2-butanol
The title compound is prepared by catalytic reduction of 1-phenoxy-4-[4-(4-nitrophenyl)-1-piperazinyl]-2-butanol with hydrogen over palladium on carbon.

reactant | 1-phenoxy-4-[4-(4-nitrophenyl)-1-piperazinyl]-2-butanol | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])O | C20H25N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | 1-Phenoxy-4-[4-(4-aminophenyl)-1-piperazinyl]-2-butanol | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC=C(C=C1)N)O | C20H27N3O2
